US05091528
5,7-Diethyl-6-nitro-3-oxo-3,4-dihydro-2H-1,4-benzoxazine.
The title compound is synthesized from either 5-ethyl-6-nitro-3-oxo-3,4-dihydro-(2H)-1,4-benzoxazine or from 7-ethyl-6-nitro-3-oxo-3,4-dihydro-(2H)-1,4-benzoxazine and ethyl magnesium bromide, using the procedure illustrated in Example 37.

reactant | 5-ethyl-6-nitro-3-oxo-3,4-dihydro-(2H)-1,4-benzoxazine | C(C)C1=C(C=CC2=C1NC(CO2)=O)[N+](=O)[O-] | C10H10N2O4
reactant | 7-ethyl-6-nitro-3-oxo-3,4-dihydro-(2H)-1,4-benzoxazine | C(C)C1=CC2=C(NC(CO2)=O)C=C1[N+](=O)[O-] | C10H10N2O4
reactant | ethyl magnesium bromide | C(C)[Mg]Br
product | 5,7-Diethyl-6-nitro-3-oxo-3,4-dihydro-2H-1,4-benzoxazine | C(C)C1=C(C(=CC2=C1NC(CO2)=O)CC)[N+](=O)[O-] | C12H14N2O4
